US07468371B2
5-Oxo-6,7-dihydro-5H-[1]pyrindine-3-carboxylic acid ethyl ester
Ethyl 2-formyl-3-oxopropanoate (3.2 g, 22 mmol) in diethyl ether (25 mL) was teated with triethylamine (3.5 mL, 25 mmol) at about 0° C. The mixture was stirred at room temperature for about 1 h before the diethyl ether was removed in vacuo. To the residue was added a solution of p-toluenesulfonyl chloride (4.5 g, 23.6 mmol) in N,N-dimethylformamide (60 mL) at about 0° C. The mixture was stirred for about 5 h while being allowed to warm to room temperature. 3-Aminocyclopent-2-en-1-one (1.75 g, 18 mmol) was added and the mixture was heated to about 85-90° C. over night. The mixture was cooled to room temperature and was concentrated in vacuo. The residue was diluted with chloroform (200 mL), washed with sodium carbonate solution, filtered through Celite, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel using dichloromethane/methanol/ammonium hydroxide (95:4.5:0.5) as the mobile phase to provide the title compound: 1H NMR (300 MHz, CDCL3): δ 1.42 (t, J=8.0 Hz, 3H), 2.82 (t, J=8.0 Hz, 2H), 3.38 (t, J=8.0 Hz, 2H), 4.42 (q, J=8.0 Hz, 3H), 8.60 (s, 1H), 9.40 (s, 1H).

reactant | Ethyl 2-formyl-3-oxopropanoate | 22 mmol, 3.2 g | C(=O)C(C(=O)OCC)C=O | C6H8O4
reactant | triethylamine | 25 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 23.6 mmol, 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-Aminocyclopent-2-en-1-one | 18 mmol, 1.75 g | NC1=CC(CC1)=O | C5H7NO
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-Oxo-6,7-dihydro-5H-[1]pyrindine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC=2CCC(C2C1)=O | C11H11NO3
